US09353108B2
B) 6-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-methyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
A 2 M aqueous sodium hydroxide solution (1.0 mL) was added at room temperature to a methanol (4 mL) solution of methyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-methyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (460 mg), and the mixture was stirred at 50° C. for 30 minutes. The reaction mixture was neutralized with hydrochloric acid at room temperature and then stirred at room temperature for 2 hours, and then, the deposited solid was collected by filtration. The obtained solid was recrystallized (DMSO/ethanol/water) to obtain the title compound (385 mg).

reactant | sodium hydroxide | 2 M, 1.0 mL | [OH-].[Na+]
reactant | methyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-methyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 460 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)C)C(=O)OC)=O | C34H37F2N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 6-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-methyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 385 mg | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)C)C(=O)O)=O | C33H35F2N3O4
